US05380738
Part 20) 4-(4-fluorophenyl)-5-(4-(methylsulfonyl)phenyl)-2-oxazolepropionic amide is prepared by treating 4-(4-fluorophenyl)-5-(4-(methylsulfonyl)phenyl)-2-oxazolepropionic acid, methyl ester with excess ammonia in methanol for 5 days, mp 193°-195° C.

reactant | 4-(4-fluorophenyl)-5-(4-(methylsulfonyl)phenyl)-2-oxazolepropionic acid, methyl ester | FC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)S(=O)(=O)C)CCC(=O)OC | C20H18FNO5S
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 4-(4-fluorophenyl)-5-(4-(methylsulfonyl)phenyl)-2-oxazolepropionic amide | FC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)S(=O)(=O)C)CCC(=O)N | C19H17FN2O4S
